US05763489
To a solution of potassium tert-butoxide (0.39 g) and 18-crown-6 (0.08 g) in dry N,N-dimethylformamide (4 ml) was added 6-diphenylmethyl-3(2H)-pyridazinone (0.83 g) at room temperature. After ten minutes, 3-bromomethyl-1,2-dihydro-8-methoxynaphthalene (0.80 g) was added to the solution and stirred at the same temperature overnight. The reaction mixture was poured into ethyl acetate and 1N hydrochloric acid and the organic layer was separated, washed with water, aqueous sodium hydrogencarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to give 2-[(3,4-dihydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.55 g).

reactant | potassium tert-butoxide | 0.39 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.08 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 6-diphenylmethyl-3(2H)-pyridazinone | 0.83 g | C1(=CC=CC=C1)C(C=1C=CC(NN1)=O)C1=CC=CC=C1 | C17H14N2O
reactant | 3-bromomethyl-1,2-dihydro-8-methoxynaphthalene | 0.80 g | BrCC=1CCC2=C(C=CC=C2C1)OC | C12H13BrO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(3,4-dihydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.55 g | COC1=C2CCC(=CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O2
